US05658910
2-Chloro-(3-pyridinecarboxylic acid) ethyl ester
10 g (0.0635 mole) of 2-chloronicotinic acid, 4.86 ml (0.067 mole) of thionylchloride and 30 ml of dioxane are heated at 70° C. for 3 hours. 20 ml of ethanol is added and the mixture is heated for 2 hours. After cooling to room temperature 10 ml of triethylamine, 10 ml of water and 5 ml ethanol is added. The solvents are evaporated and the residue is extracted with ether and water. The ether is evaporated and the crude product is isolated. The yield is 10.3 g (95%). Distillation of the crude product at 8 mm Bp. 122°-123° C. yielded 9.4 g (90%) of the title compound (2b:l), b.p. 122°-123° C. at 8 mm Hg.

reactant | 2-chloronicotinic acid | 0.0635 mole, 10 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionylchloride | 0.067 mole, 4.86 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Chloro-(3-pyridinecarboxylic acid) ethyl ester | 9.4 g, 90% | C(C)OC(=O)C=1C(=NC=CC1)Cl | C8H8ClNO2
